US08865682B2
Preparation of 4-Bromo-5,5-dimethyl-5H-furan-2-one
To a solution of 4-hydroxy-5,5-dimethyl-5H-furan-2-one (2.1 g, 16.4 mmol) in DCE (40 mL) and DMF (1.5 mL) at 0° C. was added dropwise oxalyl bromide (3.0 mL, 32 mmol, 2 equiv). The mixture was stirred at room temperature for 4-5 h, and then put in an ice bath. Ice water (100 mL) was added slowly. The mixture was extracted with CH2Cl2 (100 mL). The organic phase was washed with 10% NaHCO3 and again with water, dried over sodium sulfate and evaporated to give the title compound 2.7 g (86% yield).

reactant | 4-hydroxy-5,5-dimethyl-5H-furan-2-one | 16.4 mmol, 2.1 g | OC1=CC(OC1(C)C)=O | C6H8O3
reactant | oxalyl bromide | 32 mmol, 3.0 mL, 2 equiv | C(C(=O)Br)(=O)Br | C2Br2O2
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-5,5-dimethyl-5H-furan-2-one | 2.7 g, 86% yield | BrC1=CC(OC1(C)C)=O | C6H7BrO2
